* Z:\mnt\design.r\spice\examples\2922-2.5.asc
V1 N004 0 PULSE(0 5.5 10m 1m 1m 10 20)
V2 N016 0 PULSE(0 3.8 20m 1m 1m 10 20)
V3 N026 0 PULSE(0 3.5 27m 1m 1m 10 20)
M§Q1 N024 N027 N025 N025 Si2316DS
M§Q2 N020 N022 N021 N021 Si2316DS
M§Q3 N014 N017 N015 N015 Si2316DS
C1 N007 0 .47µ
R1 N015 N036 4.7K
C2 N039 0 .22µ
R2 N014 N031 178K
R3 N010 N030 178K
R4 N014 N018 100
C3 N014 0 10µ
C4 N001 N009 .01µ
C5 N010 N019 .01µ
C6 N020 0 10µ
C7 N024 0 10µ
C8 N014 N029 .01µ
XU1 N014 N018 0 N029 N026 MP_01 MP_02 N026 LT1763-2.5
M§Q4 N030 N040 0 0 BSS123
V4 N040 0 PULSE(0 5 2.5 100n 100n 200u 100)
C9 N015 0 10µ
C10 N021 0 10µ
C11 N025 0 10µ
V5 N005 0 PULSE(0 1 2 100n 100n 100u 100)
S1 0 N003 N005 0 SSHRT
M§Q5 N010 N012 N011 N011 Si2316DS
R5 N010 N013 100
C12 N010 0 10µ
C13 N011 0 10µ
M§Q6 N002 N008 N003 N003 Si2316DS
R6 N002 N001 50m
R7 N001 N006 100
C14 N001 0 10µ
C15 N003 0 10µ
R8 N020 N033 113K
R9 N033 0 49.9K
R10 N024 N035 86.6K
R11 N035 0 49.9K
R12 N031 0 49.9K
R13 N030 0 49.9K
V6 N032 0 PULSE(0 2.5 27m 1m 1m 10 20)
C16 N020 N034 .01µ
R14 N020 N023 100
V7 N037 0 PULSE(0 2.5 27m 1m 1m 10 20)
C17 N024 N038 .01µ
R15 N024 N028 100
R16 N008 N007 10
R17 N012 N007 10
R18 N017 N007 10
R19 N022 N007 10
R20 N027 N007 10
XU2 N020 N023 0 N034 N032 MP_03 MP_04 N032 LT1763-1.8
XU3 N024 N028 0 N038 N037 MP_05 MP_06 N037 LT1763-1.5
XU4 N030 N031 N033 N035 N023 N021 N018 N015 N013 N011 0 N036 N007 N002 N001 N039 N006 N003 N028 N025 LTC2922-2.5
XU5 N010 N013 0 N019 N016 MP_07 MP_08 N016 LT1763-2.5
XU6 N001 N006 0 N009 N004 MP_09 MP_10 N004 LT1763-2.5
Rload4 N025 0 70
Rload3 N021 0 70
Rload2 N015 0 70
Rload1 N011 0 70
Rload0 N003 0 70
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 4
.model SSHRT SW(Ron=1 Roff=7 Vt=.5 Vh=-.3)
.lib LT1763.lib
.lib LTC2922-2.5.sub
.backanno
.end
